US09340538B2
Step A: (S)-6,6-dimethylmorpholine-3-carboxylic acid hydrochloride
To a solution of (S)-methyl 6,6-dimethylmorpholine-3-carboxylate (0.2 g, 1.2 mmol) (The compound was synthesized according to the procedure as described in WO2008024692) in anhydrous methanol (4 mL) was added a solution of sodium hydroxide (0.1 g, 2.4 mmol) in water (1 mL). The reaction mixture was stirred at 25° C. for 2 hours, and cooled to 0° C. The reaction mixture was adjusted to pH 1-2 with con. HCl. The mixture was concentrated in vacuo to give the title compound as a white solid (0.19 g, 100%). The compound was characterized by the following spectroscopic data:

reactant | (S)-methyl 6,6-dimethylmorpholine-3-carboxylate | 1.2 mmol, 0.2 g | CC1(OC[C@H](NC1)C(=O)OC)C | C8H15NO3
reactant | sodium hydroxide | 2.4 mmol, 0.1 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | (S)-6,6-dimethylmorpholine-3-carboxylic acid hydrochloride | 0.19 g, 100% | Cl.CC1(OC[C@H](NC1)C(=O)O)C | InChI=1S/C7H13NO3.ClH/c1-7(2)4-8-5(3-11-7)6(9)10;/h5,8H,3-4H2,1-2H3,(H,9,10);1H/t5-;/m0./s1
